US04272437
(R and S) 2-Azidopentanoic acid
A solution of ethyl-2-azidopentanoate (3.082 g, 18.0 mmol) in a mixture of methanol (10 ml) and water (5 ml) was treated dropwise with 20 ml of 1M sodium hydroxide (20 mmol, 1.1 equiv). After 1.5 h at room temperature, the methanol was evaporated under reduced pressure and the remaining aqueous phase was washed with ether (2×10 ml) and acidified with dilute HCl (3N) at 0° C. The aqueous phase was extracted with dichloromethane (3×25 ml). The compound organic phases were washed with water and dried over anhydrous sodium sulfate. Evaporation of the solvent gave an oil which was distilled (bulb to bulb) to give 2.393 g (93%) of a clear liquid: bp 80°-85° C./0.5 toor (air bath temperature; ir (firm) νmax : 2110 (N3), 1720 cm-1 (C=O); 1Hmr (CDCl3) δ: 3.90 (1H, dd, J=6, J=7, H-2), 2.0-1.0 (4H, m, H-3, H-4) and 1.00 ppm (3H, distorted t, J=6, H-5); Anal. calcd for C5H9N3O2 : C 41.95, H 6.34, N 29.36; found: C 42.06, H 6.49, N 29.26.

reactant | ethyl-2-azidopentanoate | 18.0 mmol, 3.082 g | C(C)OC(C(CCC)N=[N+]=[N-])=O | C7H13N3O2
reactant | sodium hydroxide | 20 mmol, 1M, 20 ml, 1.1 equiv | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | 2-Azidopentanoic acid | 2.393 g, 93% | N(=[N+]=[N-])C(C(=O)O)CCC | C5H9N3O2
